US07183276B2
A mixture of diethyl 4-amino-α-hydroxybenzylphosphonate (50 mg), 3-{3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]propionic acid (54 mg), 1-hydroxy-7-aza-1H-1,2,3-benzotriazole (38 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (43 mg) and N,N-dimethylformamide (0.5 ml) was stirred overnight at room temperature. To the reaction mixture was added 0.1N aqueous hydrochloric acid solution (2 ml) and the reaction mixture was extracted with ethyl acetate (2 ml). The organic layer was concentrated, introduced into preparative HPLC and purified to give 3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]-N-(4-[(diethylphosphono)(hydroxy)methyl]phenyl}propionamide (52 mg, 58%). Recrystallization from ethyl acetate-isopropyl ether gave yellow prism crystals. melting point: 171–172° C. MS (ESI+): 609 (M+H)

reactant | diethyl 4-amino-α-hydroxybenzylphosphonate | 50 mg | NC1=CC=C(C(O)P(OCC)(OCC)=O)C=C1 | C11H18NO4P
reactant | 3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]propionic acid | 54 mg | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)Cl)CCC(=O)O | C19H14ClN3O3
reactant | 1-hydroxy-7-aza-1H-1,2,3-benzotriazole | 38 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 43 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydrochloric acid | 0.1N, 2 ml | Cl | ClH
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 3-[2-(1H-benzoimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]-N-(4-[(diethylphosphono)(hydroxy)methyl]phenyl}propionamide | 52 mg, 58% | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)Cl)CCC(=O)NC2=CC=C(C=C2)C(O)P(=O)(OCC)OCC | C30H30ClN4O6P
